US07060710B2
b) (5-Methyl-3-phenylisoxazol-4-yl)(3-pyrrolidin-1-yl-1H-inden-2-yl)-methanone
The solid obtained from step a) was dissolved in dichloromethane (20 ml) and cooled to 0° C. Triethylamine (1 ml, 7.5 mmol) was added followed by 3-phenyl-5-methyl-4-isoxazolecarbonyl chloride (0.9 ml (1.8 mmol) of a 1.96M solution in dichloromethane. The reaction was warmed to 25° C. and stirred for 2 h. Water (10 ml) was added and the reaction mixture extracted into dichloromethane. The organic layer was dried (MgSO4) and evaporated to obtain the title compound as a brown oil m/z (ES+) 371(M+H)+.

reactant | Triethylamine | 7.5 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | 3-phenyl-5-methyl-4-isoxazolecarbonyl chloride | C1(=CC=CC=C1)C1=NOC(=C1C(=O)Cl)C | C11H8ClNO2
reactant | Water | 10 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (5-Methyl-3-phenylisoxazol-4-yl)(3-pyrrolidin-1-yl-1H-inden-2-yl)-methanone | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)C=1CC2=CC=CC=C2C1N1CCCC1 | C24H22N2O2
